Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMHx s/f ___, Atrial fibrillation, HTN, CHF, 
Prostate Ca
Anemia, Spinal Stenosis presents to ___ ED from assisted 
living facility with concern of recurrent C. Diff colitis.
Patient recently discharged from ___ in ___ with 
diastolic heart failure and C. diff colitis, treated with full 
course of vancomycin. Represented on ___ with recurrent 
diarrhea, found ___ C. Diff positive at facility, sought care 
at ___ ED, sent home on ___. Per patient, has been 
having diarrhea for 1 months, not improving. Completed ABX w~ 
___ days ago. Continued to have watery diarrhea. Recheck C. Diff 
on ___ positive for C. Diff. Apart from diarrhea without 
hematochezia or melena, endorses non productive cough in last 
several days. Denies fever, chills, n/v, diarrhea, chest pain, 
abdominal pain, dyuria, urgency or frequency.
In the ED, initial vital signs were: 99.3 140/100 16 99%RA
- Exam was notable for: guiac neg green stool
- Labs were notable for: no WBC, anemia 10.1/31.8, mild 
thrombocytopenia (147), INR 1.9, hyponatremia 131, LFTs and 
lipase WNL.
- Imaging: CXR Right upper to mid lung opacity is not well 
assessed, but could be due to consolidation due to pneumonia.
- The patient was given:
___ 21:48 PO/NG Vancomycin Oral Liquid ___ mg 
___
- Consults: none
Vitals prior to transfer were: 98.9 95 129/86 18 95%RA
Upon arrival to the floor, patient alert and oriented. Able to 
recall above history although does not remember details as to 
antiobiotics or time. Has had ~2 bowel movement, loose v. watery 
on ___. Denies pain. Prefers to IVF and would to maintain PO.
REVIEW OF SYSTEMS:
[+] per HPI
[-] Denies headache, visual changes, pharyngitis, rhinorrhea, 
nasal congestion, cough, fevers, chills, sweats, weight loss, 
dyspnea, chest pain, abdominal pain, nausea, vomiting, 
constipation, hematochezia, dysuria, rash, paresthesias, 
weakness

 
Past Medical History:
___
Atrial fibrillation
Constipation
Memory Loss
Urinary Incontinence
Back Pain
Osteoporosis
CHF
Weight Loss
Hypertension
Kyphosis
Prostate Ca
Anemia
Spinal Stenosis
- Status post aortobifemoral bypass graft in ___ for right
aneurysm repair.
- Peptic ulcer disease in ___, associated with aspirin for back
pain, and in ___, associated with Feldene for hip pain.
- Status post radical prostatectomy in ___.
- Status post left hip replacement in ___.
- Basal cell carcinoma of the left ear in ___, status post
removal.
 
Social History:
___
Family History:
Mother with HTN
 
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
VITALS - 98.2 131/88 102 20 94%RA
GENERAL - pleasant, chronically ill appearing elderly gentleman, 
NAD. Resting pill rolling tremor in both upper extremities. 
AAOx3, appropriate mentation
HEENT - normocephalic, atraumatic,
NECK - supple, no LAD, no thyromegaly, JVP flat
CARDIAC - irregular rate & rhythm, normal S1/S2, no murmurs rubs 
or gallops
PULMONARY - mild expiratory wheezing in both lung fields, worse 
on nd expiration. Non productive cough. Does not appear 
tachypneic. Speakign in full sentensce
ABDOMEN - normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly
EXTREMITIES - warm, well-perfused, no cyanosis, clubbing or 
edema
SKIN - without rash
NEUROLOGIC - A&Ox3, CN II-XII grossly normal. MAE. Tremor as 
above. Gait assessment deferred
PSYCHIATRIC - listen & responds to questions appropriately. 
Short term memory loss not immediately appreciable

=======================
DISCHARGE PHYSICAL EXAM
=======================
VS: T 98.3F BP 138/75 mmHg P 74 RR 20 O2 98% RA
General: Elderly man, pleasant, appearing his stated age in NAD.
HEENT: PERRL; EOMs intact. Anicteric sclerae.
Neck: Supple, no JVD. 
CV: Irregular, no MRGs; normal S1/S2.
Pulm: Improved air movement with prolonged expiratory phase and 
mild end-expiratory wheezes. No increased work of breathing. 
Abd: Soft, non-tender, non-distended.
Ext: Warm and well-perfused. Trace edema. 2+ DP pulses. 
Neuro: A&Ox3, CNs II-XII grossly intact. Pill-rolling tremor.
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 06:43PM BLOOD WBC-4.2 RBC-3.23* Hgb-10.1* Hct-31.6* 
MCV-98 MCH-31.3 MCHC-32.0 RDW-15.6* RDWSD-55.9* Plt ___
___ 06:43PM BLOOD Neuts-75.8* Lymphs-10.8* Monos-11.0 
Eos-1.2 Baso-0.7 Im ___ AbsNeut-3.17# AbsLymp-0.45* 
AbsMono-0.46 AbsEos-0.05 AbsBaso-0.03
___ 06:43PM BLOOD ___ PTT-34.0 ___
___ 06:43PM BLOOD Glucose-91 UreaN-23* Creat-1.1 Na-131* 
K-3.7 Cl-96 HCO3-23 AnGap-16
___ 06:43PM BLOOD ALT-7 AST-19 AlkPhos-60 TotBili-0.7
___ 06:43PM BLOOD Lipase-28
___ 06:43PM BLOOD Albumin-3.6 Calcium-8.6 Phos-2.9 Mg-1.7
___ 06:55PM BLOOD Lactate-1.0

==============
DISCHARGE LABS
==============
___ 06:40AM BLOOD WBC-4.7 RBC-3.29* Hgb-10.3* Hct-31.4* 
MCV-95 MCH-31.3 MCHC-32.8 RDW-15.5 RDWSD-54.3* Plt ___
___ 06:40AM BLOOD ___ PTT-33.1 ___
___ 06:40AM BLOOD Glucose-101* UreaN-19 Creat-0.9 Na-133 
K-4.3 Cl-98 HCO3-26 AnGap-13
___ 06:40AM BLOOD Calcium-8.8 Phos-3.1 Mg-1.8

============
MICROBIOLOGY
============
__________________________________________________________
___ 6:03 am STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

   OVA + PARASITES (Pending): 
__________________________________________________________
___ 3:57 am STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

   OVA + PARASITES (Pending): 
__________________________________________________________
___ 11:46 am STOOL     CONSISTENCY: SOFT      Source: 
Stool. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Pending): 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 
__________________________________________________________
___ 6:43 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      CANCELLED.    Culture negative as of: 2300 ON ___. 
         Test canceled/culture discontinued per: ___. 
         PATIENT CREDITED. 

===============
IMAGING/STUDIES
===============
CHEST (PA & LAT) (___):
FINDINGS:  
The patient is rotated to the right in the patient's chin 
overlies the lung apices, partially obscuring the view.  Given 
the above, there is likely a small right pleural effusion with 
overlying atelectasis.  Increased interstitial markings 
bilaterally suggests mild to moderate interstitial edema.  More 
focal right upper to mid lung opacity is not well assessed due 
to patient positioning, could be due to consolidation due to 
pneumonia.  Cardiac and mediastinal silhouettes are stable. 
  
IMPRESSION:  
Limited study due to patient rotation in patient's chin 
overlying the medial lung apices.  Given this, small right 
pleural effusion.  Mild to moderate interstitial edema.  Right 
upper to mid lung opacity is not well assessed, but could be due 
to consolidation due to pneumonia. 

 
Brief Hospital Course:
___ is an ___ y/o man with a PMH of ___ disease, 
AFib on warfarin, HTN, chronic , and prostate cancer, with 
recent admission for C. difficile infection, who presented with 
diarrhea consistent with recurrent C. diff and decompensated 
diastolic heart failure. 
.
# Recurrent C. difficile infection. Presented with significant 
ongoing diarrhea for sevearl weeks. Although he was found to be 
C. difficile negative, this was thought to be secondary to lab 
error, and he was treated for recurrence of C. difficile. 
Diarrhea improved on PO vancomycin. For this reason, he will 
require a prolonged taper of PO vancomycin, to end approximately 
___. Course: 125 mg PO QIDx14 days (end ___, 
then BIDx7 days (end ___, then QDx7 days (end ___, then 
QODx7 days (end ___, then q3 days x14 days (end ___. 
Additional stool studies were all negative. 
.
# Acute on chronic diastolic heart failure. This infection was 
thought to be the trigger for his decompensated heart failure 
(presented with significant peripheral edema, and respiratory 
distress), and he was diuresed with 20 mg IV Lasix to a dry 
weight of 75.8 kg before restarting home oral PO Lasix. 
.
==============
CHRONIC ISSUES
==============
# Atrial fibrillation. Therapeutic on anticoagulation for atrial 
fibrillation and continued on warfarin and metoprolol succinate 
25 mg daily. 
# ___ disease. Continued on home Sinemet and bentropine.
# Osteoporosis. Continued on alendronate and vitamin D.
# Iron deficiency anemia. Continued ferrous sulfate.
.
===================
TRANSITIONAL ISSUES
===================
# Discharge weight: 75.8 kg
# Discharge Cr: 0.9
# Antibiotic course. Will require prolonged PO taper of 
vancomycin to end approximately ___. Course: 125 mg PO 
QIDx14 days (end ___, then BIDx7 days (end ___, then 
QDx7 days (end ___, then QODx7 days (end ___, then q3 
days x14 days (end ___.
# Probiotics. Would advise starting a probiotic given C. 
difficile recurrence. 
# Medication changes. Restarted on albuterol for reactive airway 
disease. 
# Goals of care. MOLST form noting that he does not want IV 
fluids. Would continue ongoing goals of care discussion 
regarding re-hospitalization. 
# CONTACT: ___ ___
# CODE STATUS: DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QSUN 
2. Benztropine Mesylate 0.5 mg PO BID 
3. Cal-Citrate (calcium citrate-vitamin D2) 250-100 mg-unit oral 
BID 
4. Carbidopa-Levodopa CR (50-200) 1 TAB PO FIVE TIMES DAILY 
5. Vitamin D ___ UNIT PO 1X/WEEK (___) 
6. Docusate Sodium 100 mg PO EVERY OTHER DAY 
7. Ferrous Sulfate 325 mg PO BID 
8. Furosemide 20 mg PO DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Vitamin D 400 UNIT PO DAILY 
11. Biscolax (bisacodyl) 10 mg rectal DAILY:PRN 
12. Milk of Magnesia 30 mL PO Q6H:PRN no bowel movement 
13. Warfarin 7 mg PO DAILY16 

 
Discharge Medications:
1. Benztropine Mesylate 0.5 mg PO BID 
2. Carbidopa-Levodopa CR (50-200) 1 TAB PO FIVE TIMES DAILY 
3. Ferrous Sulfate 325 mg PO BID 
4. Furosemide 20 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Milk of Magnesia 30 mL PO Q6H:PRN no bowel movement 
7. Vancomycin Oral Liquid ___ mg PO Q6H Duration: 14 Days 
Complete ___ 
8. Alendronate Sodium 70 mg PO QSUN 
9. Biscolax (bisacodyl) 10 mg rectal DAILY:PRN 
10. Cal-Citrate (calcium citrate-vitamin D2) 250-100 mg-unit 
oral BID 
11. Vitamin D 1000 UNIT PO DAILY 
12. Vancomycin Oral Liquid ___ mg PO BID Duration: 7 Days 
___ - ___ 
13. Vancomycin Oral Liquid ___ mg PO DAILY Duration: 7 Days 
___ - ___ 
14. Vancomycin Oral Liquid ___ mg PO EVERY OTHER DAY Duration: 7 
Days 
___ - ___ 
15. Vancomycin Oral Liquid ___ mg PO EVERY THREE DAYS Duration: 
14 Days 
___ - ___ 
16. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
17. Warfarin 8 mg PO DAILY16 
18. Docusate Sodium 100 mg PO DAILY:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
================= 
PRIMARY DIAGNOSES 
================= 
- recurrent Clostridium difficile infection 
- acute on chronic diastolic heart failure 
 
=================== 
SECONDARY DIAGNOSES 
=================== 
- ___ disease 
- atrial fibrillation 
- osteoporosis 
- chronic iron deficiency anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You were admitted because you were having 
diarrhea. You were found to have C. difficile colitis. We think 
this is because you will require a long course of antibiotics to 
completely clear the infection from your body. 

You will be going to a rehab facility to continue your recovery. 
Please continue to take all medications as prescribed. Your 
discharge follow-up appointments are outlined below.

We wish you the very best!

Warmly,
Your ___ Team
 
Followup Instructions:
___